US07385059B2
A solution of 1-tert-butyl-4-oxopiperidine (3.6 g, 23.1), benzylamine (5.1 ml, 46.8 mmol), acetic acid (1.5 ml) and sodium triacetoxyborohydride (7.38 g, 34.8 mmol) was stirred at ambient for 2 days. Reaction mixture reduced in vacuo, residue partitioned between aqueous K2CO3 and EtOAc. The organic portion was dried (Na2SO4), filtered and reduced in vacuo. The residue was subjected to chromatography using CH2Cl2/MeOH/NH4OH (87/12/1)as the eluent to yield N-benzyl-1-tert-butylpiperidin-4-amine (1.5 g) (LC/MS: Rt 0.45, [M+H]+247).

reactant | 1-tert-butyl-4-oxopiperidine | 3.6 g | C(C)(C)(C)N1CCC(CC1)=O | C9H17NO
reactant | benzylamine | 46.8 mmol, 5.1 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 34.8 mmol, 7.38 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | N-benzyl-1-tert-butylpiperidin-4-amine | 1.5 g | C(C1=CC=CC=C1)NC1CCN(CC1)C(C)(C)C | C16H26N2
